US07342019B2
(a) 5,6-diphenyl-pyrazine-2-carboxylic acid
The monohydrochloride of 2,3-diaminopropionic acid (500 mg, 3.56 mmol) and benzil (890 mg, 4.23 mmol) were added to a solution of sodium hydroxide (677 mg, 16.93 mmol) in methanol (10 ml). An extra portion of methanol was added (5 ml) and the reaction mixture was refluxed for 20 minutes. The mixture was cooled to 25° C. and air was bubbled through for 30 minutes. Hydrochloric acid (aq, 2 M) was added until the reaction mixture reached pH 2. The solution was extracted with diethyl ether. The combined diethyl ether phases were dried (MgSO4), filtrated and evaporated under reduced pressure to give the crude product. MS m/z 277 (M+H)+. The crude product was used in steps described below without further purification.

reactant | monohydrochloride | Cl | ClH
reactant | 2,3-diaminopropionic acid | 3.56 mmol, 500 mg | NC(C(=O)O)CN | C3H8N2O2
reactant | benzil | 4.23 mmol, 890 mg | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | sodium hydroxide | 16.93 mmol, 677 mg | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 5,6-diphenyl-pyrazine-2-carboxylic acid | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)C(=O)O | C17H12N2O2
